*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/4.70e-02[uF]/16[V]
* Murata P/N :GCM155R11C473KA01
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R11C473KA01 Port1 Port2
C01 Port1 N01 4.62e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.94e-10
R03 N02 N03 2.20e-02
C04 N03 N04 8.49e-06
R04 N03 N04 4.69e+02
C05 N04 N05 7.77e-06
R05 N04 N05 1.35e+02
C06 N05 N06 6.37e-06
R06 N05 N06 2.05e+01
C07 N06 N07 6.02e-06
R07 N06 N07 2.41e+00
C08 N07 N08 5.44e-06
R08 N07 N08 3.28e-01
C09 N08 N09 3.66e-06
R09 N08 N09 7.83e-02
C10 N09 N10 3.80e-06
R10 N09 N10 1.32e-02
L11 N10 N11 1.48e-11
R11 N10 N11 1.27e-01
L12 N11 N12 7.69e-11
R12 N11 N12 9.71e-02
C13 N12 N13 7.56e-07
L13 N12 N13 5.69e-12
R13 N12 N13 1.12e-02
C14 N13 N14 6.90e-08
L14 N13 N14 2.90e-11
R14 N13 N14 3.29e-02
C15 N14 Port2 7.54e-12
L15 N14 Port2 4.01e-11
R15 N14 Port2 6.04e+00
.ENDS GCM155R11C473KA01
